US09163012B2
(R)-tert-butyl 2-(4-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)thiazol-2-yl)pyrrolidine-1-carboxylate (131 mg,) was dissolved in CH2Cl2 (5 mL) and 4 M HCl in dioxane (5 mL) was added. The mixture was stirred at rt for 3 h and concentrated to afford (R)-1-methyl-4-(2-(pyrrolidin-2-yl)thiazol-4-yl)pyridin-2(1H)-one HCl salt (127 mg) as an off-white solid. LC-MS Method 1 tR=0.40 min, m/z=262.

reactant | (R)-tert-butyl 2-(4-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)thiazol-2-yl)pyrrolidine-1-carboxylate | 131 mg | CN1C(C=C(C=C1)C=1N=C(SC1)[C@@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C18H23N3O3S
reactant | HCl | 4 M | Cl | ClH
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (R)-1-methyl-4-(2-(pyrrolidin-2-yl)thiazol-4-yl)pyridin-2(1H)-one HCl salt | 127 mg | Cl.CN1C(C=C(C=C1)C=1N=C(SC1)[C@@H]1NCCC1)=O | InChI=1S/C13H15N3OS.ClH/c1-16-6-4-9(7-12(16)17)11-8-18-13(15-11)10-3-2-5-14-10;/h4,6-8,10,14H,2-3,5H2,1H3;1H/t10-;/m1./s1
